US03987039
To a solution of diphenylmethyl-3-methoxyiminomethyl- 7-(2 -thienylacetamido)-3-cephem-4 -carboxylate (394 mg) in methylene chloride (11 ml) are added anisole (1.1 ml) and trifluoroacetic acid (1.1 ml) at 0° C under argon atmosphere, and the mixture is kept at the same temperature for 25 minutes, and at room temperature for 25 minutes. The reaction mixture is evaporated, and trituration of the residue in ether gives 3-methoxyiminomethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid (216 mg). m.p. 186°-189° C.

reactant | diphenylmethyl-3-methoxyiminomethyl- 7-(2 -thienylacetamido)-3-cephem-4 -carboxylate | 394 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CC=2SC=CC2)=O)=O)C=NOC | C28H25N3O5S2
reactant | anisole | 1.1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxyiminomethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 216 mg | CON=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C15H15N3O5S2
